US08491868B2
Synthesis of tert-butyl 4-(4-(3-hydroxyprop-1-ynyl)phenyl)piperazine-1-carboxylate
To a slurry of tert-butyl 4-(4-iodophenyl)piperazine-1-carboxylate (200 mg, 0.515 mmol), triphenylphosphine (1.4 mg, 0.005 mmol), and palladium chloride (0.5 mg, 0.003 mmol) in DEA (2 mL) was added DMF (400 μL) and copper iodide (1 mg, 0.005 mmol). The reaction mixture stirred at room temperature for 24 h. The next day, the reaction mixture was concentrated and purified using silica gel chromatography (gradient method 0%-100% EtOAc in hexanes) to afford tert-butyl 4-(4-(3-hydroxyprop-1-ynyl)phenyl)piperazine-1-carboxylate as a yellow solid (92 mg, 75% yield based on recovered starting material). 1H NMR (300 MHz, CDCl3): δ 7.34 (d, 2H, J=8.8 Hz), 6.82 (d, 2H, J=8.9 Hz), 4.48 (d, 2H, J=5.6 Hz), 3.57 (dd, 4H, J=5.5., 4.9 Hz), 3.18 (dd, 4H, J=5.4, 5.0 Hz), 1.87 (t, 1H, J=5.7 Hz), 1.49 (s, 9H); 13C NMR (75 MHz, CDCl3): δ 154.7, 150.9, 132.8, 115.5, 113.1, 85.9, 80.0, 51.7, 48.4, 44.8, 28.4; FIRMS calcd for C18H24N2O3: 317.18597 found 317.1861.

reactant | tert-butyl 4-(4-iodophenyl)piperazine-1-carboxylate | 0.515 mmol, 200 mg | IC1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H21IN2O2
reactant | triphenylphosphine | 0.005 mmol, 1.4 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DMF | 400 μL | CN(C)C=O | C3H7NO
catalyst | palladium chloride | 0.003 mmol, 0.5 mg | [Pd](Cl)Cl
catalyst | copper iodide | 0.005 mmol, 1 mg | [Cu](I)I
product | tert-butyl 4-(4-(3-hydroxyprop-1-ynyl)phenyl)piperazine-1-carboxylate | 75% yield | OCC#CC1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C18H24N2O3
